US07709473B2
6-Cyclopentyl-8-isopropylamino-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one
A solution of 20 mg of 1-(8-isopropylamino-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-cyclopentanecarboxylic acid in AcOH (3.0 mL) was warmed to 120° C. for 30 min. The reaction was cooled to ambient temperature and diluted with water. The mixture was extracted with EtOAc, the organic layer was washed with water (2×), dried over magnesium sulfate, filtered, and concentrated to leave the title compound as a tan solid. MS (M+H+)=262.3.

reactant | 1-(8-isopropylamino-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-cyclopentanecarboxylic acid | 20 mg | C(C)(C)NC=1C=2N(C=C(N1)C1(CCCC1)C(=O)O)C(NN2)=O | C14H19N5O3
solvent | AcOH | 3.0 mL | CC(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-Cyclopentyl-8-isopropylamino-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one | C1(CCCC1)C=1N=C(C=2N(C1)C(NN2)=O)NC(C)C | C13H19N5O
